US06111109
To methyl acridine-4-carboxylate, prepared in Example 4,(183 mg), was added a degassed solution of NaOH in aqueous EtOH (1:1,2M)(35 ml). The mixture was stirred for 3 hours at 50° C., when a clear solution was obtained, then neutralised with glacial AcOH. Extraction with EtOAc (3×15 50 ml) followed by chromatography on silica gel, eluting with EtOAc/petroleum ether (1:4), gave acridine-4-carboxylic acid (160 mg, 87%), mp (Me2CO) 196-197° C. (lit, mp 202-204° C.).

reactant | methyl acridine-4-carboxylate | C1=CC=C(C2=NC3=CC=CC=C3C=C12)C(=O)OC | C15H11NO2
reactant | NaOH | [OH-].[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | acridone | 1,2M, 35 ml | C1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H9NO
product | acridine-4-carboxylic acid | 160 mg, 87% | C1=CC=C(C2=NC3=CC=CC=C3C=C12)C(=O)O | C14H9NO2
